US07101892B2
1-(4-Benzenesulfonyl-3,3-dimethylbutyl)-4-trifluoromethylpiperidine
Sodium cyanoborohydride (78 mg, 1.2 mmol) was added to a stirred solution of the crude 4-benzenesulfonyl-3,3-dimethyl-butyraldehyde (240 mg, 1 mmol) and 4-trifluoromethylpiperidine (321 mg, 2.1 mmol) in methanol (4 ml). The mixture was stirred for 1 hour, quenched with sat. aqueous NaHCO3 and extracted into dichloromethane. The combined organic extracts were dried (Na2SO4) and concentrated. The residue was purified on silica (dichloromethane:methanol) to give the title product.

reactant | Sodium cyanoborohydride | 1.2 mmol, 78 mg | C(#N)[BH3-].[Na+]
reactant | 4-benzenesulfonyl-3,3-dimethyl-butyraldehyde | 1 mmol, 240 mg | C1(=CC=CC=C1)S(=O)(=O)CC(CC=O)(C)C | C12H16O3S
reactant | 4-trifluoromethylpiperidine | 2.1 mmol, 321 mg | FC(C1CCNCC1)(F)F | C6H10F3N
solvent | methanol | 4 ml | CO | CH4O
product | 1-(4-Benzenesulfonyl-3,3-dimethylbutyl)-4-trifluoromethylpiperidine | C1(=CC=CC=C1)S(=O)(=O)CC(CCN1CCC(CC1)C(F)(F)F)(C)C | C18H26F3NO2S
